US04064125
A. N,N-Dimethyl-3-[2-[(phenylimino)methyl]phenoxy]propanamine
A solution of 32.5 g (0.156 mole) of 2-(3-dimethylaminopropoxy)benzaldehyde and 14.6 g (0.157 mole) of aniline in 150 ml of toluene is refluxed for 9 hours. Water which is formed very slowly is collected in a Dean-Stark trap. The bulk of solvent is removed on a rotary evaporator and the oily residue is fractionated to give 20.0 g of product; boiling point 165°-170° C/0.2 mm of Hg.

reactant | 2-(3-dimethylaminopropoxy)benzaldehyde | 0.156 mole, 32.5 g | CN(CCCOC1=C(C=O)C=CC=C1)C | C12H17NO2
reactant | aniline | 0.157 mole, 14.6 g | NC1=CC=CC=C1 | C6H7N
reactant | Water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-3-[2-[(phenylimino)methyl]phenoxy]propanamine | 20.0 g | CN(CCCOC1=C(C=CC=C1)C=NC1=CC=CC=C1)C | C18H22N2O
